* Z:\home\sbecht\ultra-efficient-adc\stateMachineLVS.asc
XX1 CO CLK N002 S Vdd 0 spdtlvs
XX2 N002 N003 Vdd 0 inverter
XX3 N003 N001 Vdd 0 inverter
XX4 X N001 N003 Q Qb RST Vdd 0 highresetflipflop

* block symbol definitions
.subckt spdtlvs IN1 IN2 OUT S V+ V-
M1 V+ S N001 V+ pfet l=.9u w=6u
M2 V- S N001 V- nfet l=.9u w=3u
M3 IN1 S OUT V- nfet l=.9u w=3u
M4 IN2 S OUT V+ pfet l=.9u w=6u
M5 OUT N001 IN2 V- nfet l=.9u w=3u
M6 OUT N001 IN1 V+ pfet l=.9u w=6u
.ends spdtlvs

.subckt inverter IN OUT pos neg
M1 OUT IN neg neg nfet l=.9u w=3u
M2 OUT IN pos pos pfet l=.9u w=6u
.ends inverter

.subckt highresetflipflop D CLK CLKb Q Qb RESET pos neg
M1 N005 CLK N007 neg nfet l=nmosL w=nmosW
M2 N007 D neg neg nfet l=nmosL w=nmosW
M3 N005 CLKb N003 pos pfet l=pmosL w=pmosW
M4 N003 D pos pos pfet l=pmosL w=pmosW
M5 N002 N005 neg neg nfet l=nmosL w=nmosW
M6 N002 N005 pos pos pfet l=pmosL w=pmosW
M7 N001 CLKb N008 neg nfet l=nmosL w=nmosW
M8 N008 N002 neg neg nfet l=nmosL w=nmosW
M9 N001 CLK N004 pos pfet l=pmosL w=pmosW
M10 N004 N002 pos pos pfet l=pmosL w=pmosW
M11 pos N002 N010 pos pfet l=pmosL w=pmosW
M12 N010 CLK N005 pos pfet l=pmosL w=pmosW
M13 N012 CLKb N005 neg nfet l=nmosL w=nmosW
M14 neg N002 N012 neg nfet l=nmosL w=nmosW
M15 N006 N001 neg neg nfet l=nmosL w=nmosW
M16 N006 N001 pos pos pfet l=pmosL w=pmosW
M17 pos N006 N009 pos pfet l=pmosL w=pmosW
M18 N009 CLKb N001 pos pfet l=pmosL w=pmosW
M19 N011 CLK N001 neg nfet l=nmosL w=nmosW
M20 neg N006 N011 neg nfet l=nmosL w=nmosW
M21 Qb N006 neg neg nfet l=nmosL w=nmosW
M22 Qb N006 pos pos pfet l=pmosL w=pmosW
M23 Q N001 neg neg nfet l=nmosL w=nmosW
M24 Q N001 pos pos pfet l=pmosL w=pmosW
M25 N005 RESET neg neg nfet l=nmosL w={6*nmosW}
M26 N001 RESET neg neg nfet l=nmosL w={6*nmosW}
.include engr3426.sub
.ends highresetflipflop

.backanno
.end
