* Z:\home\sbecht\ultra-efficient-adc\stateMachineLVS.asc
XX1 CO CLK N002 S Vdd 0 spdtlvs
XX2 N002 N003 Vdd 0 inverter
XX3 N003 N001 Vdd 0 inverter
XX4 X N001 N003 Q Qb RST Vdd 0 resetflipflop_high_lds

* block symbol definitions
.subckt spdtlvs IN1 IN2 OUT S V+ V-
M1 V+ S N001 V+ pfet l=.9u w=6u
M2 V- S N001 V- nfet l=.9u w=3u
M3 IN1 S OUT V- nfet l=.9u w=3u
M4 IN2 S OUT V+ pfet l=.9u w=6u
M5 OUT N001 IN2 V- nfet l=.9u w=3u
M6 OUT N001 IN1 V+ pfet l=.9u w=6u
.ends spdtlvs

.subckt inverter IN OUT pos neg
M1 OUT IN neg neg nfet l=.9u w=3u
M2 OUT IN pos pos pfet l=.9u w=6u
.ends inverter

.subckt resetflipflop_high_lds D CLK CLKb Q Qb RESET pos neg
M1 N007 D neg neg nfet l=0.9u w=3u
M2 N003 D pos pos pfet l=0.9u w=6u
M3 N001 RESET neg neg nfet l=0.9u w=4.5u
M4 N005 CLKb N003 pos pfet l=0.9u w=6u
M5 N002 N005 pos pos pfet l=0.9u w=6u
M6 N001 CLK N004 pos pfet l=0.9u w=6u
M7 N004 N002 pos pos pfet l=0.9u w=6u
M8 Q N001 pos pos pfet l=0.9u w=6u
M9 N006 N001 pos pos pfet l=0.9u w=6u
M10 pos N002 N010 pos pfet l=0.9u w=6u
M11 N010 CLK N005 pos pfet l=0.9u w=6u
M12 N009 CLKb N001 pos pfet l=0.9u w=6u
M13 pos N006 N009 pos pfet l=0.9u w=6u
M14 Qb N006 pos pos pfet l=0.9u w=6u
M15 N005 CLK N007 neg nfet l=0.9u w=3u
M16 N002 N005 neg neg nfet l=0.9u w=3u
M17 N001 CLKb N008 neg nfet l=0.9u w=3u
M18 N008 N002 neg neg nfet l=0.9u w=3u
M19 N006 N001 neg neg nfet l=0.9u w=3u
M20 Qb N006 neg neg nfet l=0.9u w=3u
M21 N001 CLK N011 neg nfet l=0.9u w=3u
M22 N011 N006 neg neg nfet l=0.9u w=3u
M23 N005 CLKb N012 neg nfet l=0.9u w=3u
M24 N012 N002 neg neg nfet l=0.9u w=3u
M25 N001 RESET neg neg nfet l=0.9u w=4.5u
M26 N001 RESET neg neg nfet l=0.9u w=4.5u
M27 N001 RESET neg neg nfet l=0.9u w=4.5u
M28 N005 RESET neg neg nfet l=0.9u w=4.5u
M29 N005 RESET neg neg nfet l=0.9u w=4.5u
M30 N005 RESET neg neg nfet l=0.9u w=4.5u
M31 N005 RESET neg neg nfet l=0.9u w=4.5u
M32 Q N001 neg neg nfet l=0.9u w=3u
.ends resetflipflop_high_lds

.backanno
.end
