* Z:\home\sbecht\ultra-efficient-adc\stateMachineLVS.asc
XX1 CO CLK N015 N014 Vdd 0 spdtlvs
XX2 N015 N016 Vdd 0 inverter
XX3 N016 N010 Vdd 0 inverter
XX4 N001 N010 N016 N005 N017 RST Vdd 0 resetflipflop_high_lds
XX5 N005 N010 N016 N006 N019 RSTb Vdd 0 resetflipflop_low_lds
XX6 N006 N010 N016 Q N012 RSTb Vdd 0 resetflipflop_low_lds
XX7 N003 N007 N012 Vdd 0 nandlvs
XX8 N007 N010 N016 N008 N020 RSTb Vdd 0 resetflipflop_low_lds
XX9 N008 N010 N016 N009 N018 RSTb Vdd 0 resetflipflop_low_lds
XX10 N009 N010 N016 N002 N013 RSTb Vdd 0 resetflipflop_low_lds
XX11 N002 N003 GO? Vdd 0 nandlvs
XX12 GO? N004 N013 Vdd 0 norlvs
XX13 N004 N010 N016 N001 N011 RSTb Vdd 0 resetflipflop_low_lds
XX15 N011 N021 Vdd 0 inverter
XX14 N021 N024 Vdd 0 inverter
XX16 N024 N025 Vdd 0 inverter
XX17 N025 N028 Vdd 0 inverter
XX18 N028 W_OUT Vdd 0 inverter
XX19 N012 N018 N013 Vdd 0 N014 nand3lvs
XX20 N017 RST_IR Vdd 0 inverter
XX21 N019 N022 N017 Vdd 0 nandlvs
XX22 N011 N023 N020 Vdd 0 nandlvs
XX23 N023 N027 N022 Vdd 0 norlvs
XX24 N027 DIS_CO? Vdd 0 inverter
XX25 N019 Iin? Vdd 0 inverter
XX26 N012 MSB_CE Vdd 0 inverter
XX27 N020 N013 N019 Vdd 0 C1? nand3lvs
XX28 N018 C2? N012 Vdd 0 nandlvs
XX29 N013 RST_C2_CO? N012 Vdd 0 nandlvs
XX30 RST_C2_CO? N026 Vdd 0 inverter
XX31 N018 RST_C1_CO? N026 Vdd 0 nandlvs
XX32 N013 LSB_CE N018 Vdd 0 nandlvs
XX33 N013 C2Ref? Vdd 0 inverter

* block symbol definitions
.subckt spdtlvs IN1 IN2 OUT S V+ V-
M1 V+ S N001 V+ pfet l=.9u w=6u
M2 V- S N001 V- nfet l=.9u w=3u
M3 IN1 S OUT V- nfet l=.9u w=3u
M4 IN2 S OUT V+ pfet l=.9u w=6u
M5 OUT N001 IN2 V- nfet l=.9u w=3u
M6 OUT N001 IN1 V+ pfet l=.9u w=6u
.ends spdtlvs

.subckt inverter IN OUT pos neg
M1 OUT IN neg neg nfet l=.9u w=3u
M2 OUT IN pos pos pfet l=.9u w=6u
.ends inverter

.subckt resetflipflop_high_lds D CLK CLKb Q Qb RESET pos neg
M1 N007 D neg neg nfet l=0.9u w=3u
M2 N003 D pos pos pfet l=0.9u w=6u
M3 N001 RESET neg neg nfet l=0.9u w=4.5u
M4 N005 CLKb N003 pos pfet l=0.9u w=6u
M5 N002 N005 pos pos pfet l=0.9u w=6u
M6 N001 CLK N004 pos pfet l=0.9u w=6u
M7 N004 N002 pos pos pfet l=0.9u w=6u
M8 Q N001 pos pos pfet l=0.9u w=6u
M9 N006 N001 pos pos pfet l=0.9u w=6u
M10 pos N002 N010 pos pfet l=0.9u w=6u
M11 N010 CLK N005 pos pfet l=0.9u w=6u
M12 N009 CLKb N001 pos pfet l=0.9u w=6u
M13 pos N006 N009 pos pfet l=0.9u w=6u
M14 Qb N006 pos pos pfet l=0.9u w=6u
M15 N005 CLK N007 neg nfet l=0.9u w=3u
M16 N002 N005 neg neg nfet l=0.9u w=3u
M17 N001 CLKb N008 neg nfet l=0.9u w=3u
M18 N008 N002 neg neg nfet l=0.9u w=3u
M19 N006 N001 neg neg nfet l=0.9u w=3u
M20 Qb N006 neg neg nfet l=0.9u w=3u
M21 N001 CLK N011 neg nfet l=0.9u w=3u
M22 N011 N006 neg neg nfet l=0.9u w=3u
M23 N005 CLKb N012 neg nfet l=0.9u w=3u
M24 N012 N002 neg neg nfet l=0.9u w=3u
M25 N001 RESET neg neg nfet l=0.9u w=4.5u
M26 N001 RESET neg neg nfet l=0.9u w=4.5u
M27 N001 RESET neg neg nfet l=0.9u w=4.5u
M28 N005 RESET neg neg nfet l=0.9u w=4.5u
M29 N005 RESET neg neg nfet l=0.9u w=4.5u
M30 N005 RESET neg neg nfet l=0.9u w=4.5u
M31 N005 RESET neg neg nfet l=0.9u w=4.5u
M32 Q N001 neg neg nfet l=0.9u w=3u
.ends resetflipflop_high_lds

.subckt resetflipflop_low_lds D CLK CLKb Q Qb RESETb pos neg
M1 N005 CLK N007 neg nfet l=0.9u w=3u
M4 N003 D pos pos pfet l=0.9u w=6u
M28 N001 RESETb pos pos pfet l=0.9u w=7.8u
M29 N001 RESETb pos pos pfet l=0.9u w=12.6u
M3 N005 CLKb N003 pos pfet l=0.9u w=6u
M6 N002 N005 pos pos pfet l=0.9u w=6u
M9 N001 CLK N004 pos pfet l=0.9u w=6u
M10 N004 N002 pos pos pfet l=0.9u w=6u
M11 N006 N001 pos pos pfet l=0.9u w=6u
M12 Q N001 pos pos pfet l=0.9u w=6u
M16 Qb N006 pos pos pfet l=0.9u w=6u
M17 N001 CLKb N009 pos pfet l=0.9u w=6u
M18 N009 N006 pos pos pfet l=0.9u w=6u
M22 N005 CLK N010 pos pfet l=0.9u w=6u
M24 N010 N002 pos pos pfet l=0.9u w=6u
M2 N007 D neg neg nfet l=0.9u w=3u
M5 N002 N005 neg neg nfet l=0.9u w=3u
M7 N001 CLKb N008 neg nfet l=0.9u w=3u
M8 N008 N002 neg neg nfet l=0.9u w=3u
M13 N006 N001 neg neg nfet l=0.9u w=3u
M14 Qb N006 neg neg nfet l=0.9u w=3u
M15 N001 CLK N011 neg nfet l=0.9u w=3u
M19 N011 N006 neg neg nfet l=0.9u w=3u
M20 N012 N002 neg neg nfet l=0.9u w=3u
M21 N005 CLKb N012 neg nfet l=0.9u w=3u
M25 N001 RESETb pos pos pfet l=0.9u w=7.8u
M26 N001 RESETb pos pos pfet l=0.9u w=7.8u
M27 N005 RESETb pos pos pfet l=0.9u w=7.8u
M30 N005 RESETb pos pos pfet l=0.9u w=12.6u
M31 N005 RESETb pos pos pfet l=0.9u w=7.8u
M32 N005 RESETb pos pos pfet l=0.9u w=7.8u
M23 Q N001 neg neg nfet l=0.9u w=3u
.ends resetflipflop_low_lds

.subckt nandlvs A OUT B pos neg
M1 pos A OUT pos pfet l=.9u w=6u
M2 OUT B pos pos pfet l=.9u w=6u
M3 N001 A neg neg nfet l=.9u w=3u
M4 OUT B N001 neg nfet l=.9u w=3u
.ends nandlvs

.subckt norlvs A Out B Vdd neg
M1 Out B neg neg nfet l=.9u w=3u
M2 neg A Out neg nfet l=.9u w=3u
M3 Vdd B N001 Vdd pfet l=.9u w=6u
M4 N001 A Out Vdd pfet l=.9u w=6u
.ends norlvs

.subckt nand3lvs A B C pos neg OUT
M1 pos A OUT pos pfet l=.9u w=6u
M2 OUT B pos pos pfet l=.9u w=6u
M3 pos C OUT pos pfet l=.9u w=6u
M4 N001 A neg neg nfet l=.9u w=3u
M5 N002 B N001 neg nfet l=.9u w=3u
M6 OUT C N002 neg nfet l=.9u w=3u
.ends nand3lvs

.backanno
.end
